US08232278B2
Synthesis of 2-amino-6-(4-fluorophenyl)-pyrido(3,2-d)pyrimidin-4(3H)thione
A suspension of 2-amino-6-(4-fluorophenyl)-pyrido(3,2-d)pyrimidin-4(3H)one (2.56 g, 10 mmol) and phosphorus pentasulfide (2.5 g, 11 mmol) in pyridine (200 ml) was refluxed for 4 hours. The reaction mixture was cooled down and the precipitate was filtered off, yielding the pure title compound, which was used without any further purification (2 g, yield: 73%) and was characterised by its mass spectrum as follows: MS (m/z): 273 ([M+H]+, 100)

reactant | 2-amino-6-(4-fluorophenyl)-pyrido(3,2-d)pyrimidin-4(3H)one | 10 mmol, 2.56 g | NC=1NC(C2=C(N1)C=CC(=N2)C2=CC=C(C=C2)F)=O | C13H9FN4O
reactant | phosphorus pentasulfide | 11 mmol, 2.5 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 2-amino-6-(4-fluorophenyl)-pyrido(3,2-d)pyrimidin-4(3H)thione | yield: 73% | NC=1NC(C2=C(N1)C=CC(=N2)C2=CC=C(C=C2)F)=S | C13H9FN4S
